US07888364B2
300 mg of 4-chloro-3-(pyridin-2-yl)aniline was coupled to 270 mg of 4-nitrobenzoic acid via Procedure G. To 520 mg of N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-nitrobenzamide in 2.5 mL of HCl in 10 mL of EtOH was added 1.3 g of Tin (II) Chloride and stirred at 55° C. Upon completion, the reaction was concentratd and extracted with Ethyl Acetate in water with TEA to reduce emulsions. The organic layer was dried over Magnesium Sulfate, filtered and concentrated to give 4-amino-N-(4-chloro-3-(pyridin-2-yl)phenyl)benzamide. 100 mg of 4-amino-N-(4-chloro-3-(pyridin-2-yl)phenyl)benzamide was reacted with 30 μL of Methanesulfonyl Chloride and 90 μL DIPEA in 500 μL DCM. The reaction mixture was evaporated, subjected to basic workup conditions and purified by reverse phase HPLC to yield N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(methylsulfonylamide)benzamide. MS (Q1) 402 (M)+.

reactant | 4-chloro-3-(pyridin-2-yl)aniline | 300 mg | ClC1=C(C=C(N)C=C1)C1=NC=CC=C1 | C11H9ClN2
reactant | 4-nitrobenzoic acid | 270 mg | [N+](=O)([O-])C1=CC=C(C(=O)O)C=C1 | C7H5NO4
reactant | N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-nitrobenzamide | 520 mg | ClC1=C(C=C(C=C1)NC(C1=CC=C(C=C1)[N+](=O)[O-])=O)C1=NC=CC=C1 | C18H12ClN3O3
reactant | Tin (II) Chloride | 1.3 g | [Sn](Cl)Cl
solvent | HCl | 2.5 mL | Cl | ClH
solvent | EtOH | 10 mL | CCO | C2H6O
product | 4-amino-N-(4-chloro-3-(pyridin-2-yl)phenyl)benzamide | NC1=CC=C(C(=O)NC2=CC(=C(C=C2)Cl)C2=NC=CC=C2)C=C1 | C18H14ClN3O
